US03996242
0.01 mole of sulphamide in 5 ml of concentrated hydrochloric acid is added to 0.012 mole of bromoacetaldehyde-diethylacetal, at room temperature whilst stirring. After 5 minutes, the precipitate which has formed is filtered off and washed with ice water, dried and recrystallised from acetone/petroleum ether. 3,7-Di-(bromomethyl)-1,5-dithia-2,4,6,8-tetra-aza-cyclooctane-1,1,5,5-tetraoxide is obtained as colourless needle-shaped crystals of melting point 172° C (decomposition) in a yield of 60%.

reactant | sulphamide | 0.01 mole | S(=O)(=O)(N)N | H4N2O2S
reactant | bromoacetaldehyde-diethylacetal | 0.012 mole | C(C)OC(CBr)OCC | C6H13BrO2
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 3,7-Di-(bromomethyl)-1,5-dithia-2,4,6,8-tetra-aza-cyclooctane-1,1,5,5-tetraoxide | yield of 60% | BrCC1NS(NC(NS(N1)(=O)=O)CBr)(=O)=O | C4H10Br2N4O4S2
